US08633315B2
To a solution of (S)—N-((2S,3S)-1,2-bis(tert-butyldimethylsilyloxy)-6-(trimethylsilyl)hex-5-yn-3-yl)-2-methylpropane-2-sulfinamide (1.8 g, 3.4 mmol) in dry MeOH (70 mL) at −20 C was added a solution of 10% HCl (200 mL, acetyl chloride-MeOH) and stirred at this temperature for 1 H. The mixture was quenched with 10% Na2CO3 and extracted with DCM (10×). The organic extracts were combined, dried over Na2SO4, filtered, and concentrated. The yellow oil obtained was dissolved in DCM (30 mL) followed by the addition of TEA (1.4 ml, 10 mmol) and di-tert-butyldicarbonate (1.5 g, 6.7 mmol). The reaction mixture was stirred at rt for 3 h, concentrated, and chromatographed on silica gel using 0-3:1 EtOAc/hexanes to afford a light yellow oil as tert-butyl (2S,3S)-2-(tert-butyldimethylsilyloxy)-1-hydroxy-6-(trimethylsilyl)hex-5-yn-3-ylcarbamate. MS m/z: 316.2 (M+1).

reactant | (S)—N-((2S,3S)-1,2-bis(tert-butyldimethylsilyloxy)-6-(trimethylsilyl)hex-5-yn-3-yl)-2-methylpropane-2-sulfinamide | 3.4 mmol, 1.8 g | [Si](C)(C)(C(C)(C)C)OC[C@H]([C@H](CC#C[Si](C)(C)C)N[S@@](=O)C(C)(C)C)O[Si](C)(C)C(C)(C)C | C25H55NO3SSi3
reactant | HCl | 200 mL | Cl | ClH
reactant | di-tert-butyldicarbonate | 6.7 mmol, 1.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 70 mL | CO | CH4O
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl (2S,3S)-2-(tert-butyldimethylsilyloxy)-1-hydroxy-6-(trimethylsilyl)hex-5-yn-3-ylcarbamate | [Si](C)(C)(C(C)(C)C)O[C@H](CO)[C@H](CC#C[Si](C)(C)C)NC(OC(C)(C)C)=O | C20H41NO4Si2
